US08802688B2
Step 1. methyl 3-cyano-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
Methyl 3-bromo-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (1.28 g, 5.01 mmol) was combined with N,N-dimethylacetamide (34 mL). To this mixture was added zinc dust (195 mg, 2.90 mmol) and zinc cyanide (1.20 g, 10.2 mmol). Nitrogen was bubbled through the mixture for 30 minutes. Then 1,1′-bis(diphenylphosphino)ferrocene-palladium (II) dichloride dichloromethane complex (611 mg, 0.749 mmol) was added and the reaction vessel was sealed. The reaction was heated to 120° C. for 65 hours. The reaction was diluted with 20% methanol/ethyl acetate and filtered through Celite. The filtrate was diluted with water and transferred to a separatory funnel. The phases were separated, and the organics were washed again with water and brine. The organics were then dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (0-75% ethyl acetate/heptanes) gave the title compound (390 mg, 39%). +ESI (M+H) 203.1.

reactant | Methyl 3-bromo-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 5.01 mmol, 1.28 g | BrC1=NNC2=NC=C(C=C21)C(=O)OC | C8H6BrN3O2
reactant | N,N-dimethylacetamide | 34 mL | CN(C(C)=O)C | C4H9NO
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
catalyst | zinc | 2.90 mmol, 195 mg | [Zn] | Zn
catalyst | zinc cyanide | 10.2 mmol, 1.20 g | [C-]#N.[Zn+2].[C-]#N
product | methyl 3-cyano-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 390 mg, 39% | C(#N)C1=NNC2=NC=C(C=C21)C(=O)OC | C9H6N4O2
